US06040306
1-t-Butoxycarbonyl-3-oxopiperazine (21.6 g) is dissolved in dry DMF (500 ml) and potassium t-butoxide (24.2 g) is added. The mixture is stirred at 20-25° for 30 minutes, then 1-(4-methylphenylsulfonyloxy)-2-fluoroethane (J. Med. Chem., 23(9), 985-90 (1980), 25.9 g) is added and stirring continued at the same temperature for 24 hours. The solvent is removed and the residue partitioned between ethyl acetate and water. The organic phase is washed with water and concentrated. The residue is dissolved in isopropanol and diluted with iso-hexane forming a precipitate which is removed by filtration. The mixture is chromatographed (silica; eluting with a gradient increasing in polarity from 0 to 50% isopropanol in iso-hexane) to give 1-t-butoxycarbonyl-4-(2-fluoroethyl)-3-oxopiperazine.

reactant | 1-t-Butoxycarbonyl-3-oxopiperazine | 21.6 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | potassium t-butoxide | 24.2 g | CC(C)([O-])C.[K+]
reactant | 1-(4-methylphenylsulfonyloxy)-2-fluoroethane | 25.9 g | CC1=CC=C(C=C1)S(=O)(=O)OCCF | C9H11FO3S
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 1-t-butoxycarbonyl-4-(2-fluoroethyl)-3-oxopiperazine | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCF)=O | C11H19FN2O3
